US04052383
e. 1-Benzhydryl-2-Benzoylazetidine
Add 68 ml of 3.6N aqueous sulfuric acid to a stirred solution of 40.0 g of 1-benzhydryl-2-benzimidoylazetidine in 800 ml. of methanol. Stir under a nitrogen atmosphere for 1.5 hours at room temperature. Slowly pour the mixture, with continuous stirring, into 234 ml. of 1.1N aqueous sodium bicarbonate. Filter the resultant solid, and extract the filter cake with methylene chloride. Combine the methylene chloride extracts with the methanolic filtrate and remove all solvent in vacuo. Dissolve the residual solid in ether, wash with water, and dry over anhydrous sodium sulfate. Remove the drying agent, concentrate the solution in vacuo to a volume of 350 ml. and triturate the solid which precipitates. Filter to obtain the analytically pure product, m.p. 114°-115° C.

reactant | sulfuric acid | 3.6N, 68 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-benzhydryl-2-benzimidoylazetidine | 40.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)=N | C23H22N2
reactant | sodium bicarbonate | 1.1N | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
product | 1-Benzhydryl-2-Benzoylazetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)=O | C23H21NO
